US04283420
A suspension of sodium amide in liquid ammonia was prepared using 3.5 g of sodium. After evaporating off the ammonia, the sodium amide was dissolved in 40 cm3 of anhydrous dimethylsulphoxide (DMSO). The mixture was stirred under nitrogen for 3 hours and a solution of 6.6 g (0.035 mole) of 1-(1-chlorovinyl)-1-cyclohexyl-carboxylic acid in 30 cm3 of dry DMSO was added slowly. The temperature of the whole was raised to 50° C. in the course of 6 hours and stirring was continued overnight at laboratory temperature. The mixture was poured into a cold solution of 20% hydrochloric acid. The resulting mixture was extracted several times with ether. After evaporating off the solvent, 1-ethynyl-1-cyclohexyl-carboxylic acid was obtained and this crystallized as colourless crystals on the addition of pentane.

reactant | sodium amide | [NH2-].[Na+]
reactant | ammonia | N | H3N
reactant | sodium | 3.5 g | [Na] | Na
reactant | 1-(1-chlorovinyl)-1-cyclohexyl-carboxylic acid | 0.035 mole, 6.6 g | ClC(=C)C1(CCCCC1)C(=O)O | C9H13ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | DMSO | 30 cm3 | CS(=O)C | C2H6OS
product | 1-ethynyl-1-cyclohexyl-carboxylic acid | Yield: 66% | C(#C)C1(CCCCC1)C(=O)O | C9H12O2
